US06063806
1-Acetyl-3-(2-carboxyethyl)-4,6-dimethylindoline (3.4 g) was dissolved in EtOH (50 ml) and 10N HCl-EtOH (3.9 ml) was added, which was followed by refluxing for 30 min. EtOH was evaporated under reduced pressure and AcOEt (100 ml) was added. After washing with water, the mixture was dried over anhydrous sodium sulfate. AcOEt was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: CHCl3 /MeOH=50/1-10/1) to give 3.3 g of 1-acetyl-3-(2-ethoxycarbonylethyl)-4,6-dimethylindoline.

reactant | 1-Acetyl-3-(2-carboxyethyl)-4,6-dimethylindoline | 3.4 g | C(C)(=O)N1CC(C2=C(C=C(C=C12)C)C)CCC(=O)O | C15H19NO3
reactant | HCl EtOH | 10N, 3.9 ml | Cl.CCO
solvent | EtOH | 50 ml | CCO | C2H6O
product | 1-acetyl-3-(2-ethoxycarbonylethyl)-4,6-dimethylindoline | 3.3 g | C(C)(=O)N1CC(C2=C(C=C(C=C12)C)C)CCC(=O)OCC | C17H23NO3
